US05091533
Methanesulfonic acid (0.5 mL) was added dropwise to a solution of 6-[3-(carbomethoxy-2-methoxyquinolin-7-yl)thiopropyl]-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran, E25, (1.1 gm; 1.7 mmoles), trifluoroacetic acid (11 mL) and thioanisole (3 mL) at 5° C. The mixture was stirred for 30 minutes and then added in portions to an ice cold stirring biphasic mixture of saturated sodium bicarbonate solution (150 mL), brine (25 mL), tetrahydrofurane (125 mL) and diethyl ether (25 mL). The organic layer was separated, dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel using 30% ethyl acetate in hexane as eluent to yield 900 mgs (95%) of 6-[3-(3-carbomethoxy-2-methoxyquinolin-7-yl)thiopropyl]-5-hydroxy-2-(2-phenylethyl-2,3-dihydrobenzofuran, E26, that had crystallized from diethyl ether, m.p. 112°-114° C.

reactant | Methanesulfonic acid | 0.5 mL | CS(=O)(=O)O | CH4O3S
reactant | 6-[3-(carbomethoxy-2-methoxyquinolin-7-yl)thiopropyl]-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran | C(=O)(OC)C=1C(=NC2=CC(=CC=C2C1)SCCCC1=CC2=C(CC(O2)CCC2=CC=CC=C2)C=C1OCC1=CC=CC=C1)OC | C38H37NO5S
reactant | trifluoroacetic acid | 1.7 mmoles, 11 mL, 1.1 gm | FC(C(=O)O)(F)F | C2HF3O2
reactant | thioanisole | 3 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | tetrahydrofurane | 125 mL | O1CCCC1 | C4H8O
product | 2-phenylethyl-2,3-dihydrobenzofuran | C1(=CC=CC=C1)CCC1OC2=C(C1)C=CC=C2 | C16H16O
